US07683064B2
To a solution of [3-bromo-2-(tert-butyl-dimethyl-silanyloxymethyl)-phenylamine (21.28 g, 67.3 mmol) and anhydrous pyridine (6.5 mL, 80 mmol) in 50 mL of anhydrous toluene was added a solution of 4-cyclopropyl-2-methylbenzoyl chloride (13.25 g, 68.1 mmol) in 50 mL anhydrous toluene dropwise. A precipitate formed immediately upon addition. Stirred the mixture at ambient temperature under nitrogen overnight. Diluted the reaction mixture with 125 mL hexane and filtered off the precipitate. Washed the filtrate with 2×200 mL 1.0 M KHSO4, 2×200 mL 5% NaHCO3, and 250 mL water. Dried the solution over MgSO4 and concentrated in vacuo to obtain N-[3-Bromo-2-(tert-butyl-dimethyl-silanyloxymethyl)-phenyl]-4-cyclopropyl-2-methyl-benzamide as a waxy light brown solid (31.54 g, 66.4 mmol). MS (ESI) 474, 476.0 (M+H)+.

reactant | 3-bromo-2-(tert-butyl-dimethyl-silanyloxymethyl)-phenylamine | 67.3 mmol, 21.28 g | BrC=1C(=C(C=CC1)N)C(O[SiH2]C(C)(C)C)(C)C | C13H22BrNOSi
reactant | pyridine | 80 mmol, 6.5 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-cyclopropyl-2-methylbenzoyl chloride | 68.1 mmol, 13.25 g | C1(CC1)C1=CC(=C(C(=O)Cl)C=C1)C | C11H11ClO
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | 125 mL | CCCCCC | C6H14
product | N-[3-Bromo-2-(tert-butyl-dimethyl-silanyloxymethyl)-phenyl]-4-cyclopropyl-2-methyl-benzamide | 66.4 mmol, 31.54 g | BrC=1C(=C(C=CC1)NC(C1=C(C=C(C=C1)C1CC1)C)=O)C(O[SiH2]C(C)(C)C)(C)C | C24H32BrNO2Si
